US06100429
A mixture of 3-bromoaniline (1.72 g, 10 mmol), 2-methyl-3-butyn-2-ol (1.1 g, 13 mmol) and benzaldehyde (0.3 g, , 2.8 mmol, containing some benzoic acid) in triethylamine (5 g) was treated with palladium diacetate (11 mg) and triphenylphosphine (197 mg). This mixture was deaerated by bubbling nitrogen and then heated to reflux. CuI (10 mg) was added and the mixture was heated at reflux for 7 hours. Product isolation analogous to Example 2 gave 1.2 g of 3-aminophenylacetylene dimethylcarbinol.

reactant | 3-bromoaniline | 10 mmol, 1.72 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 2-methyl-3-butyn-2-ol | 13 mmol, 1.1 g | CC(C)(C#C)O | C5H8O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenylphosphine | 197 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
catalyst | palladium diacetate | 11 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 3-aminophenylacetylene dimethylcarbinol | 1.2 g | CC(O)C.NC=1C=C(C=CC1)C#C | InChI=1S/C8H7N.C3H8O/c1-2-7-4-3-5-8(9)6-7;1-3(2)4/h1,3-6H,9H2;3-4H,1-2H3
